US07241800B2
Pitavastatin sodium (5.22 g) prepared according to U.S. Pat. Nos. 5,011,930 A, 5,856,336 A and 5,872,130 A is dissolved in a mixture of 75 ml of water and 15 ml of ethanol and stirred at room temperature under a nitrogen atmosphere. Successively 12 ml of 1 mol/L calcium acetate in water is added drop wise thereto over 20 minutes. The reaction mixture is stirred at the ambient temperature for 3 hours, and the resulting precipitate is collected, washed with water and dried to give 4.5 g of crude pitavastatin calcium salt material.

reactant | Pitavastatin sodium | 5.22 g | C=1C=CC2=C(C1)C(=C(C(=N2)C3CC3)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C=4C=CC(=CC4)F.[Na]
reactant | calcium acetate | 1 mol/L, 12 ml | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
solvent | water | 75 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | pitavastatin calcium | 4.5 g | C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.[Ca+2] | InChI=1S/2C25H24FNO4.Ca/c2*26-17-9-7-15(8-10-17)24-20-3-1-2-4-22(20)27-25(16-5-6-16)21(24)12-11-18(28)13-19(29)14-23(30)31;/h2*1-4,7-12,16,18-19,28-29H,5-6,13-14H2,(H,30,31);/q;;+2/p-2/b2*12-11+;/t2*18-,19-;/m11./s1
